US05981545
Ethyl 1-benzyl-4-(1,2,4-triazol-1-yl)-piperidin-4-yl carboxylate (D28)
A stirred suspension of ethyl 1-benzyl-4-hydrazinopiperdin-4-ylcarboxylate dihydrochloride salt (D27, 2.0 g, 0.0057 mol) in absolute chloroform (200 ml) was treated with Gold's reagent ([3-(dimethylamino)-2-azaprop-2-en-1-ylidene]-dimethylammonium chloride) (930 mg, 0.0057 mol) and triethylamine (1.6 ml, 0.0114 mol) and the mixture heated at reflux under nitrogen for 2.5 h. The solution was allowed to cool, treated with concentrated potassium carbonate solution and the organic layer separated, dried (Na2SO4) and concentrated in vacuo to leave an orange oil. This was chromatographed on silica gel eluting first with ethyl acetate to obtain the title compound (D28), then with methanol to obtain a high polar intermediate, which on heating under reflux in toluene for 20 minutes gave a further batch of the triazole product. These two batches were combined to give the title compound (D28) (770 mg, 43%) as an orange oil.

reactant | ethyl 1-benzyl-4-hydrazinopiperdin-4-ylcarboxylate dihydrochloride salt | 0.0057 mol, 2.0 g | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)(NN)C(=O)OCC
reactant | Gold's reagent | 0.0057 mol, 930 mg | CN(C)C=NC=[N+](C)C.[Cl-]
reactant | triethylamine | 0.0114 mol, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 1-benzyl-4-(1,2,4-triazol-1-yl)-piperidin-4-yl carboxylate | C(C1=CC=CC=C1)N1CCC(CC1)(N1N=CN=C1)C(=O)OCC | C17H22N4O2
